US05695910
To a suspension of 9-anthracenemethanol (50 g, 0.24 mole) in methylene chloride (50 ml), a solution of thionyl chloride (32.3 g, 0.27 mole) in benzene (300 ml) was added, and reacted with stirring for 10 hours under reflux. The reaction mixture was poured into ice-water (500 ml). An organic layer separated was washed with H2O (100 ml×3), dried over anhydrous MgSO4 and evaporated to give 51.2 g of 9-chloromethylanthracene as residual crude orange yellow oil.

reactant | 9-anthracenemethanol | 0.24 mole, 50 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | thionyl chloride | 0.27 mole, 32.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 9-chloromethylanthracene | 51.2 g | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
